US08293768B2
Synthesis of ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate
A mixture of ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate (0.15 g, 0.59 mmol), potassium carbonate (0.16 g, 1.19 mmol) and 4-fluorobenzyl bromide (0.11 mL, 0.90 mmol) in N,N-dimethylformamide (3 mL) was stirred at 80° C. for 18 h. The reaction mixture was allowed to cool to ambient temperature, then partitioned between ethyl acetate (75 mL) and water (35 mL). The organic layer was washed with brine (35 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 0-40% ethyl acetate in hexanes to afford the title compound as a cream solid in 81% yield (0.17 g): 1H NMR (300 MHz, CDCl3) δ 7.72 (s, 1H), 7.42-7.36 (m, 2H), 7.08-7.01 (m, 2H), 6.93 (s, 1H), 4.98 (s, 2H), 4.32 (q, J=7.1 Hz, 2H), 2.54 (s, 3H), 1.36 (t, J=7.1 Hz, 3H); MS (ES+) m/z 362.2 (M+1).

reactant | ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate | 0.59 mmol, 0.15 g | CC1=C(SC(=C1)N1C=NNC1=O)C(=O)OCC | C10H11N3O3S
reactant | potassium carbonate | 1.19 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 0.90 mmol, 0.11 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | 81% yield | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)OCC)C)C=C1 | C17H16FN3O3S
